US04379167
4-Chloro-1-(1-naphthyloxy)-2-butanol
To a mixture of 1 mole (147 g.) of 1-naphthol, 350 ml. of water and 2 moles (112 g.) of potassium hydroxide was added at 54° C. 1 mole (143 g.) of 1,4-dichloro-2-butanol. The temperature of the reaction mixture was kept below 60° C. during the addition of the chlorobutanol. The reaction mixture was heated at 65° C. for 12 hr., then mixed with 500 ml. of water and 350 ml. of chloroform. The chloroform layer was separated, washed with water, dried over sodium sulfate, concentrated and the residual oil distilled under reduced pressure to give 128 g. of a crystalline solid which was distilled at 162°-165° C./0.01 mm. The solid was recrystallized with ether and pet. ether (30°-60°) to give material melting at 75°-77° C.

reactant | 1-naphthol | 1 mole, 147 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | potassium hydroxide | 2 moles, 112 g | [OH-].[K+]
reactant | 1,4-dichloro-2-butanol | 1 mole, 143 g | ClCC(CCCl)O | C4H8Cl2O
reactant | chlorobutanol | CC(C)(C(Cl)(Cl)Cl)O | C4H7Cl3O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 4-Chloro-1-(1-naphthyloxy)-2-butanol | ClCCC(COC1=CC=CC2=CC=CC=C12)O | C14H15ClO2
